US07259266B2
Step 4. Preparation of ethyl 8-chloro-6-ethoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Step 3 (0.500 g, 1.55 mmole) in anhydrous DMF (5.0 mL) under a dry N2 atmosphere was added KI (26 mg, 0.155 mmole), K2CO3 (0.643 g, 4.65 mmole) and ethyl iodide (272 uL, 4.65 mmole). After stirring overnight at room temperature, the mixture was poured into H2O (150 mL), saturated with solid NaCI and extracted with EtOAc (200 mL). The extract was then washed with brine (2×200 mL), dried over MgSO4, filtered and concentrated in vacuo to give a quantitative yield of the product as a tan solid: EIHRMS m/z 350.0564 (M+, C15H14ClF3O4, Calc'd 350.0533). 1H NMR (dmso-d6/300 MHz) 7.93 (s, 1H), 7.18 (d, 1H, J=3.0 Hz), 7.13 (d, 1H, J=2.8 Hz), 6.06 (q, 1H, J=7.3 Hz), 4.23-4.31 (m, 2H), 4.01 (q, 2H, 7.0 Hz), 1.29 (q, 6H, J=7.0 Hz).

reactant | ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)O | C13H10ClF3O4
reactant | K2CO3 | 4.65 mmole, 0.643 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 4.65 mmole, 272 uL | C(C)I | C2H5I
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | ethyl 8-chloro-6-ethoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | quantitative yield | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OCC | C15H14ClF3O4
